US06828460B2
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone Oxime
Hydroxylamine hydrochloride (71 mg), triethylamine (0.17 ml) and (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone (200 mg) were heated under reflux in ethanol (8 ml). After 0.75 hr, the reaction mixture was evaporated in vacuo and the residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous layer was extracted with ethyl acetate (2×100 ml), and the combined organic extracts were dried over magnesium sulfate and evaporated in vacuo. The crude residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:1 v/v) to furnish the title compound as a pale yellow oil (197 mg, 94%); m/z (ES+) 310 (M+H)+.

reactant | Hydroxylamine hydrochloride | 71 mg | Cl.NO
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone | 200 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=O | C16H22O5
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone Oxime | 197 mg, 94% | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=NO | C16H23NO5
